US05200412
N-Bromosuccinimide (13.76 g, 76 mmol) was added to a stirred solution of 3-chloro-4-toluenesulphonyl chloride (12 g, 76 mmol) in CCl4 (120 ml) under argon. After one hour benzoyl peroxide (0.92 g, 3.8 mmol) was added and the reaction mixture refluxed overnight. The mixture was allowed to cool, the resulting white precipitate filtered off and the filtrate evaporated to a yellow oil. Purification of the residue by chromatography over silica gel (3% ethyl acetate in hexane) afforded 3-chloro-4-bromomethylphenylsulphonyl chloride (3.3 g, 14%) as a colourless oil.

reactant | N-Bromosuccinimide | 76 mmol, 13.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-chloro-4-toluenesulphonyl chloride | 76 mmol, 12 g | ClC=1C=C(C=CC1S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | benzoyl peroxide | 3.8 mmol, 0.92 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | CCl4 | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-4-bromomethylphenylsulphonyl chloride | 3.3 g, 14% | ClC=1C=C(C=CC1CBr)S(=O)(=O)Cl | C7H5BrCl2O2S
